US04935437
A mixture of methyl 3,5-bis(1-cyano-1-methyl ethyl)benzoate (5.6 g), lithium borohydride (0.44 g) and tetrahydrofuran (30 ml) was heated under reflux for 2 h. The mixture was cooled and stirred while 2N aqueous hydrochloric acid was added dropwise until the solution remained acidic, and then the mixture was extracted twice with ethyl acetate. The combined extracts were washed with 1N aqueous potasium bicarbonate solution and then dried and evaporated to dryness under reduced pressure to give 2,2'-(5-hydroxymethyl-1,3-phenylene)di(2-methylpropiononitrile), mp. 151°-153°, which was used without further purification.

reactant | methyl 3,5-bis(1-cyano-1-methyl ethyl)benzoate | 5.6 g | C(#N)C(C)(C)C=1C=C(C(=O)OC)C=C(C1)C(C)(C#N)C | C16H18N2O2
reactant | lithium borohydride | 0.44 g | [BH4-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,2'-(5-hydroxymethyl-1,3-phenylene)di(2-methylpropiononitrile) | OCC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C15H18N2O
